US04330291
Preparation of 2-chloro-5-acetylamino-6-nitro phenol
0.23 mole (43 g) of 2-chloro-5-acetylamino phenol is dissolved, with agitation, in 500 cc of sulfuric acid (d=1.83) at a temperature of about +5° C. There are then added 15 cc of phosphoric acid and the resulting reaction medium is cooled to -30° C. There are then slowly added, over a 35 minute period, while vigorously agitating, 9.7 cc of nitric acid (d=1.52) in 1.5 cc of sulfuric acid (d=1.83). The reaction mixture is then poured over 3 kgs of shaved ice to precipitate the desired product which is separated by filtration, washed with water and dried, yielding 47 g of product.

reactant | 2-chloro-5-acetylamino phenol | 0.23 mole, 43 g | ClC1=C(C=C(C=C1)NC(C)=O)O | C8H8ClNO2
reactant | phosphoric acid | 15 cc | P(O)(O)(O)=O | H3O4P
reactant | nitric acid | 9.7 cc | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 500 cc | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.5 cc | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-5-acetylamino-6-nitro phenol | 47 g | ClC1=C(C(=C(C=C1)NC(C)=O)[N+](=O)[O-])O | C8H7ClN2O4
